US07186724B2
4-(2-Methoxycarbonyl-6trifluoromethyl-benzo[b]thiophen-3-yl)-piperidine-1-carboxylic acid methyl ester.
To a solution of 3-(1-benzyl-piperidin-4-yl)-6-trifluoromethyl-benzo[b]thiophene-2-carboxylic acid methyl ester (5.9 g, 13.6 mmol) in DCM (50 mL) was added methyl chloroformate (1.26 mL, 16.3 mmol) drop-wise. The resulting solution was stirred overnight when the volatiles were removed in vacuo. The residue was washed with heptane to yield 4.2 g (77%) of the desired product as a white solid.

reactant | 3-(1-benzyl-piperidin-4-yl)-6-trifluoromethyl-benzo[b]thiophene-2-carboxylic acid methyl ester | 13.6 mmol, 5.9 g | COC(=O)C1=C(C2=C(S1)C=C(C=C2)C(F)(F)F)C2CCN(CC2)CC2=CC=CC=C2 | C23H22F3NO2S
reactant | methyl chloroformate | 16.3 mmol, 1.26 mL | ClC(=O)OC | C2H3ClO2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-Methoxycarbonyl-6trifluoromethyl-benzo[b]thiophen-3-yl)-piperidine-1-carboxylic acid methyl ester | 4.2 g, 77% | COC(=O)N1CCC(CC1)C=1C2=C(SC1C(=O)OC)C=C(C=C2)C(F)(F)F | C18H18F3NO4S
